US04684656
(C) 1, 6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl -1-(methylsulfonyl)-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester
A solution of 1, 4-dihydro-2-[[(4-methoxyphenyl)methyl]thio-]6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester (1.14 g, 2.66 mmole) in 15 ml of dichloromethane under argon at 0°-5° C. was treated with pyridine (0.42 ml, 0.42 g, 5.32 mmole) and methanesulfonyl chloride (0.28 ml, 0.41 g, 3.57 mmole). The mixture was then allowed to stir at room temperature overnight.

reactant | 1, 4-dihydro-2-[[(4-methoxyphenyl)methyl]thio-]6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester | 2.66 mmole, 1.14 g | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H21N3O5S
reactant | pyridine | 5.32 mmole, 0.42 ml, 0.42 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 3.57 mmole, 0.28 ml, 0.41 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1, 6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl -1-(methylsulfonyl)-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)C | C22H23N3O7S2
